US07709511B2
a) tert-Butyl 4-{[(2-hydroxyethyl)amino]methyl}piperidine-1-carboxylate
tert-Butyl 4-(hydroxymethyl)piperidine-1-carboxylate (4.3 g) was dissolved in dichloromethane (50 ml) and pyridinium chlorochromate (6.46 g) was added. The reaction was stirred for 2 hours and filtered through a thin bed of silica eluting with ethyl acetate/hexane (⅓). The resulting aldehyde was dissolved in ethanol (20 mL) and ethanolamine (2.44 g) was added along with 10% palladium (Pd) on Carbon (100 mg). The reaction mixture was hydrogenated at 2.5 bar for 24 hours, filtered and concentrated. The residue was dissolved in methanol and passed through a SCX cartridge eluting with methanol. The product was eluted with 7N ammonia in methanol to afford the sub-titled compound (4.2 g) as an oil.

reactant | tert-Butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 4.3 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | pyridinium chlorochromate | 6.46 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-{[(2-hydroxyethyl)amino]methyl}piperidine-1-carboxylate | 4.2 g | OCCNCC1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O3
